US07018988B2
(2S,4EZ)-N-benzyl-4-[(benzyloxy)imino]-1-(diphenylacetyl)-N-methyl-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, diphenylacetyl chloride, and N-benzyl-N-methylamine the title compound was obtained in 42% purity by LC/MS. MS(ESI+): m/z=532.4.

reactant | (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C1=CC=CC=C1)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H22N2O5
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | N-benzyl-N-methylamine | C(C1=CC=CC=C1)NC | C8H11N
product | (2S,4EZ)-N-benzyl-4-[(benzyloxy)imino]-1-(diphenylacetyl)-N-methyl-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)N(C(=O)[C@H]1N(CC(C1)=NOCC1=CC=CC=C1)C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C34H33N3O3
